US04703046
A solution of 7-amino-2-methyl-3-cephem-4-carboxylic acid (1.0 g.) and trimethylsilylacetamide (3.7 g.) in dry ethyl acetate (30 ml.) and a solution of dimethylformamide (0.47 ml.), phosphoryl chloride (0.56 ml.) and 2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetic acid (syn isomer, 1.6 g.) in dry ethyl acetate (11.6 ml.) were treated in a similar manner to that of Example 1-(1) to give 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-2-methyl-3-cephem-4-carboxylic acid (syn isomer, 1.85 g.).

reactant | 7-amino-2-methyl-3-cephem-4-carboxylic acid | 1.0 g | NC1[C@@H]2N(C(=CC(S2)C)C(=O)O)C1=O | C8H10N2O3S
reactant | trimethylsilylacetamide | 3.7 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | phosphoryl chloride | 0.56 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetic acid | 1.6 g | C(=O)NC=1SC(=C(N1)C(C(=O)O)=NOC)Br | C7H6BrN3O4S
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 11.6 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 0.47 ml | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-2-methyl-3-cephem-4-carboxylic acid | 1.85 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=CC(S2)C)C(=O)O)C1=O)=NOC)Br | C15H14BrN5O6S2
